US03974161
A. α-Cyano-β-(2-Nitro-5-Fluorophenyl)Acrylamide
A mixture of 3-fluoro-6-nitrobenzaldehyde (10.0 g., 0.0592 mole), 2-cyanoacetamide (5.24 g., 0.0622 mole), piperidine (0.37 g., 4.36 millimole) and ethanol (92 ml.) is heated to reflux on a steam bath for 2 hours. It is then cooled in an ice-bath whereupon the product precipitates and is recovered by filtration, washed with cold ethanol and dried. Yield = 9.1 g. (65%) of crude product. M.P. 162°-166° C.

reactant | 3-fluoro-6-nitrobenzaldehyde | 0.0592 mole, 10.0 g | FC=1C=C(C=O)C(=CC1)[N+](=O)[O-] | C7H4FNO3
reactant | 2-cyanoacetamide | 0.0622 mole, 5.24 g | C(#N)CC(=O)N | C3H4N2O
reactant | piperidine | 4.36 millimole, 0.37 g | N1CCCCC1 | C5H11N
solvent | ethanol | 92 ml | C(C)O | C2H6O
product | α-Cyano-β-(2-Nitro-5-Fluorophenyl)Acrylamide | C(#N)C(C(=O)N)=CC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H6FN3O3
